US05124347
3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]1,3,-dihydro-2H-indole-2-one, (Z)-*;
A mixture of 3,5-di-tert-butyl-4-hydroxybenzaldehyde (5.28 g; 22.5 mmol), 2-oxindole (3.0 g; 22.5 mmol), and p-toluene sulfonic acid (0.25 g) in toluene (100 ml) is heated under reflux for 18 hours. The reaction mixture is cooled and filtered. The residue is washed with ether and dried @80° C. under vacuum for 18 hours to give 3.4 g (43.2%) of a yellow solid, mp 224°-225° C. (lit. mp 227° C.*).

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 22.5 mmol, 5.28 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | 2-oxindole | 22.5 mmol, 3.0 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | p-toluene sulfonic acid | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]1,3,-dihydro-2H-indole-2-one | 3.4 g, 43.2% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC2=CC=CC=C12)=O | C23H27NO2
